US06689797B2
1a) 5-(2-(4-Hydroxy-4-(3-trifluoromethylphenyl)piperidino)ethyl)benzothiophene
A mixture of 1.47 g (0.006 mol) of 4-hydroxy-4-(3-trifluoromethylphenyl)piperidine, 30 ml of methylene chloride, 2.25 ml (0.0162 mol) of triethylamine, 1.15 g (0.006 mol) of benzothiophene-5-acetic acid (prepared according to the method described in J. Med. Chem. 1997, 40(7):1049-72) and 2.7 g (0.006 mol) of BOP is stirred at ambient temperature for 3 hours. Ethyl acetate is added to the mixture and the mixture is washed with 1N hydrochloric acid and then with water, with a solution of NaHCO3 and again with water. The organic phase is dried over sodium sulfate and filtered and the solvent is evaporated off. The crude product thus obtained, dissolved in 20 ml of anhydrous tetrahydrofuran (THF), is refluxed for 5 hours and 1.1 ml of a solution of BH3Me2S and 15 ml of anhydrous THF are added thereto. The mixture is cooled to 0° C. and 20 ml of methanol are added thereto dropwise. The mixture is refluxed for 30 minutes, the methanol is evaporated off and the residue is taken up in a 1/1 NH4OH/ethyl acetate mixture. The organic phase is dried over sodium sulfate, filtered and the solvent is evaporated off. The reaction crude is purified by chromatography on a silica gel column, eluting with ethyl acetate. 0.9 g of the title product is obtained.

reactant | 4-hydroxy-4-(3-trifluoromethylphenyl)piperidine | 0.006 mol, 1.47 g | OC1(CCNCC1)C1=CC(=CC=C1)C(F)(F)F | C12H14F3NO
reactant | triethylamine | 0.0162 mol, 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | benzothiophene-5-acetic acid | 0.006 mol, 1.15 g | S1C=CC2=C1C=CC(=C2)CC(=O)O | C10H8O2S
reactant | BOP | 0.006 mol, 2.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-(4-Hydroxy-4-(3-trifluoromethylphenyl)piperidino)ethyl)benzothiophene | 0.9 g | OC1(CCN(CC1)CCC=1C=CC2=C(C=CS2)C1)C1=CC(=CC=C1)C(F)(F)F | C22H22F3NOS
